US07414061B2
b) 5-Ethyl-3-phenyl-isoxazole-4-carboxylic acid
To a solution of 5-ethyl-3-phenyl-isoxazole-4-carboxylic acid methyl ester (12.0 g, 51 mmol) in THF (50 mL), was added a solution of LiOH.H2O (10.8 g, 255 mmol) in water (25 mL) in one portion. The reaction mixture was then heated under reflux for 12 h. After cooling to room temperature and concentration, the remaining mixture was extracted with ethyl acetate and dried over sodium sulphate. Evaporation afforded the title compound (8.01 g, 72%) as yellow solid. MS: m/e=218.1 [M+H]+.

reactant | 5-ethyl-3-phenyl-isoxazole-4-carboxylic acid methyl ester | 51 mmol, 12.0 g | COC(=O)C=1C(=NOC1CC)C1=CC=CC=C1 | C13H13NO3
reactant | LiOH.H2O | 255 mmol, 10.8 g | O[Li].O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | water | 25 mL | O | H2O
product | 5-Ethyl-3-phenyl-isoxazole-4-carboxylic acid | 8.01 g, 72% | C(C)C1=C(C(=NO1)C1=CC=CC=C1)C(=O)O | C12H11NO3
